US07067517B2
Methyl-phenyl-carbamic acid 4-benzyl-phenyl ester
The title compound was prepared from 4-benzyl-phenol and N-methyl-N-phenylcarbamoyl chloride. The crude product was recrystallized (ethanol/water) (56%, white crystals). HPLC-MS m/z=318.1 (M+l), Rt: 5.05 min.

reactant | 4-benzyl-phenol | C(C1=CC=CC=C1)C1=CC=C(C=C1)O | C13H12O
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-benzyl-phenyl ester | C(C1=CC=CC=C1)C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C21H19NO2
